US03952013
5.9 Parts of 5-(3-methylbutoxy)-8-propyl-1-thiachromone-2-carboxylic acid was reacted with 1.83 parts of sodium bicarbonate in 50 parts of water. The resulting yellowish solution was freeze dried to give 5.7 parts of 5-(3-methylbutoxy)-8-propyl-1-thiachromone-2-carboxylic acid sodium salt.

reactant | 5-(3-methylbutoxy)-8-propyl-1-thiachromone-2-carboxylic acid | CC(CCOC1=C2C(C=C(SC2=C(C=C1)CCC)C(=O)O)=O)C | C18H22O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | 5-(3-methylbutoxy)-8-propyl-1-thiachromone-2-carboxylic acid sodium salt | [Na+].CC(CCOC1=C2C(C=C(SC2=C(C=C1)CCC)C(=O)[O-])=O)C | InChI=1S/C18H22O4S.Na/c1-4-5-12-6-7-14(22-9-8-11(2)3)16-13(19)10-15(18(20)21)23-17(12)16;/h6-7,10-11H,4-5,8-9H2,1-3H3,(H,20,21);/q;+1/p-1
